US08202865B2
Step 4: 4-[Isobutyl(propyl)amino]-3-[(methylsulfonyl)amino]benzoic acid
To a solution of ethyl-4-[isobutyl(propyl)amino]-3-[(methylsulfonyl)amino]benzoate (7 g, 0.0196 mol) in THF (70 mL) was added lithium hydroxide (4.12 g, 0.098 mol) and water (70 mL). The reaction mixture was heated at 70° C. for 5 h. The reaction mixture was diluted with water (30 mL), washed with diethyl ether (50 mL). The aqueous layer was acidified with 1M HCl until pH=2, extracted with EtOAc (2×75 mL), washed with brine, dried over sodium sulphate and evaporated to afford the title compound as an off white solid (5.6 g, 86%). 1H NMR: (DMSO-d6, 400 MHz), δ 12.78 (s, 1H), 8.39 (s, 1H), 7.87 (s, 1H), 7.65 (m, 1H), 7.28 (m, 1H), 3.09 (s, 3H), 2.97 (m, 2H) 2.84 (m, 2H), 1.67 (m, 1H), 1.41 (m, 2H), 0.84 (m, 9H). LC/MS (Method A): 329.0 (M+H)+. HPLC (Method B) Rt 4.53 min (purity: 99.12%).

reactant | ethyl-4-[isobutyl(propyl)amino]-3-[(methylsulfonyl)amino]benzoate | 0.0196 mol, 7 g | C(C)OC(C1=CC(=C(C=C1)N(CCC)CC(C)C)NS(=O)(=O)C)=O | C17H28N2O4S
reactant | lithium hydroxide | 0.098 mol, 4.12 g | [OH-].[Li+]
solvent | THF | 70 mL | C1CCOC1 | C4H8O
solvent | water | 30 mL | O | H2O
solvent | water | 70 mL | O | H2O
product | 4-[Isobutyl(propyl)amino]-3-[(methylsulfonyl)amino]benzoic acid | C(C(C)C)N(C1=C(C=C(C(=O)O)C=C1)NS(=O)(=O)C)CCC | C15H24N2O4S
